data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
660,720,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]3([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,11.417699195215688,-55.91438458921262
735,797,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[NH+:19][N-:20][C:21]([CH3:22])=[O:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[NH:19][N:20]2[C:21]([CH3:22])=[O:23],water,298.15,16.663018543075665,-29.12429490402297
3236,3653,[CH3:10][C:11]#[N+:12][N-:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]([C:14]([CH3:15])=[O:16])[N:12]=[C:11]1[CH3:10],water,298.15,24.548234564308054,-30.041949061000714
3668,4188,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:13]=[C:12]1[C:11]#[N:10],water,298.15,12.135686514264243,-39.302443232426256
1590,1759,[CH3:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:23]([CH3:24])([C:25]([CH3:26])=[O:27])[O:22][C:19]2([C:17]([CH3:16])=[O:18])[C:20]#[N:21],water,298.15,20.59795190495209,-25.3763845309765
5241,5946,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:20]([CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:19][C:18]2([C:16]([CH3:15])=[O:17])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,14.0245911016091,-17.72271222531394
118,134,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][F:7].[CH3:8][C:9](=[O:10])[c:11]1[nH+:12][c-:13]([CH3:14])[c:15](=[O:16])[o:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[C:13]2([CH3:14])[NH:12][C:11]1([C:9]([CH3:8])=[O:10])[O:17][C:15]2=[O:16],water,298.15,18.796106626594018,-32.09060915946214
2288,2535,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[c:24]1[o:25][c:26](=[O:27])[c-:28]([C:29]#[N:30])[o+:31]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:28]1([C:29]#[N:30])[C:26](=[O:27])[O:25][C:24]2([C:22]([O:21][CH3:20])=[O:23])[O:31]1,water,298.15,20.591981576713053,-23.9627341197514
265,289,[CH3:14][C:15]([C:16]#[N:17])=[O+:18][O-:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:15]([CH3:14])([C:16]#[N:17])[O:18][O:19]2,water,298.15,14.236922748915903,-35.61931673005422
4149,4752,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[CH:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]([C:16]([CH3:17])=[O:18])([C:19](=[O:20])[O:21][CH3:22])[NH:14][CH:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,13.524329482214576,-9.038870437411653
5102,5792,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:16][C:17]2([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,11.962398852156484,-21.98245597176372
2398,2663,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[Cl:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[Cl:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:15][C:16]2([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,21.80157880807892,-21.9025505622424
